US04066830
4-Hydroxy-phenyl-propionitrile is nitrated in glacial acetic acid with 65% strength nitric acid at 10°-15° C, in the course of 2 hours, the 3-nitro-4-hydroxyphenyl-propionitrile (melting point = 104° C) is reduced with hydrogen, using 5% strength palladium charcoal as the catalyst, in ethanol at room temperature to give 3-amino-4-hydroxyphenyl-propionitrile (melting point = 125° C) and the amine compound is acetylated in toluene with molar equivalent amounts of acetic anhydride. The 3-acetamino-4-hydroxyphenyl-propionitrile (melting point = 191°-192°) is slowly warmed to 250°-260° and then rapidly heated up to 300°. The melt is cooled to room temperature, the oil is taken up in an alkaline aqueous solution, the pH of which is adjusted to 10, and the water/oil emulsion is extracted by shaking with chloroform. The chloroform solution is separated from the aqueous phase, dried with sodium sulphate and concentrated. The pink-beige needle crystals thus obtained melt at 69°-70° C.

reactant | 4-Hydroxy-phenyl-propionitrile | OC1=CC=C(C=C1)C(C#N)C | C9H9NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 3-nitro-4-hydroxyphenyl-propionitrile | [N+](=O)([O-])C=1C=C(C=CC1O)C(C#N)C | C9H8N2O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium charcoal | [Pd] | Pd
product | 3-amino-4-hydroxyphenyl-propionitrile | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
